US08067445B2
Step 2: Ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid 4-fluoro-benzyl ester
Prepared according to the procedure described in Example 33, Step 2, using the following starting materials: (2-bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid 4-fluoro-benzyl ester and bis(pinacolato)diboron.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-carbamic acid 4-fluoro-benzyl ester | FC1=CC=C(COC(N(CC)CC2=C(C=CC(=C2)C(F)(F)F)Br)=O)C=C1 | C18H16BrF4NO2
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | Ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid 4-fluoro-benzyl ester | FC1=CC=C(COC(N(CC2=C(C=CC(=C2)C(F)(F)F)B2OC(C(O2)(C)C)(C)C)CC)=O)C=C1 | C24H28BF4NO4
